US08258141B2
Z3: Biphenyl-2-yl-carbamic acid 1-[2-((R)-3-amino-pyrrolidin-1-yl)-2-oxo-ethyl]-piperidin-4-yl ester
A solution of ((R)-1-{2-[4-(biphenyl-2-ylcarbamoyloxy)-piperidin-1-yl]-acetyl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester (Intermediate Z2) (1.17 g, 2.24 mmol) in DCM (10 ml) is treated with TFA (5 ml) and stirred at room temperature for 2 hours. The solution is basified by addition of saturated sodium bicarbonate solution and then extracted with DCM. The combined organic portions are washed with water, brine, dried (MgSO4) and concentrated in vacuo to yield the title product. [MH+ 423.20].

reactant | ((R)-1-{2-[4-(biphenyl-2-ylcarbamoyloxy)-piperidin-1-yl]-acetyl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | 2.24 mmol, 1.17 g | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(CN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)=O | C29H38N4O5
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-yl-carbamic acid 1-[2-((R)-3-amino-pyrrolidin-1-yl)-2-oxo-ethyl]-piperidin-4-yl ester | N[C@H]1CN(CC1)C(CN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O | C24H30N4O3
